Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
-flexible sigmoidoscopy ___ with discovery of large rectal mass 
concerning for malignancy

-EGD ___: grade B esophagitis w/ antral ulcers likely due to 
NSAID use

 
History of Present Illness:
___ h/o HTN presents with rectal bleeding and symptomatic 
anemia. The patient reports he has not been feeling well for a 
few months. He has had problems with constipation leading to 
straining to have a bowel movement and small amounts of bright 
red blood when moving his bowels. He increased the fiber in his 
diet but continued to have these symptoms. He also has had 
associated rectal pain which he sometimes gets after a bowel 
movement. It feels like a muscle cramping type pain. He 
sometimes feels like he has to move his bowels when he has this 
pain. He has been taking 2 ibuprofen for this pain as it 
prevents him from sleeping. He denies nausea or vomiting denies 
vomiting blood. Has not noted very dark stool. He does note that 
he has felt more tired than usual, at least for the past few 
months. He denies dyspnea on exertion but did notice that he 
would be much more fatigued after doing strenuous activity. He 
also noted that he would be lightheaded if he leaned forward and 
stood quickly. He has had some left sided abdominal pain he 
notes most in the morning before he has had anything to eat. He 
reports a 5lb weight loss. Has never had rectal bleeding or 
anything like this in the past.

He was seen by his PCP ___ ___ with some complaints of rectal 
bleeding, constipation. Referred for colonoscopy scheduled for 
___.  He then returned to see PCP ___ ___, sent for labs and 
found to have hemoglobin of 5.2 so referred to the ED.

In ED, initial H/H was 5.___.6. Rectal exam brown with slight 
maroon tinge stool, heme positive. no hemorrhoids or fissures. 
The patient received 2 units of PRBCs pantoprazole and was 
admitted for work up of anemia. 

On arrival to the floor, the patient reports he feels well. He 
has no pain currently and feels much better after his blood 
transfusion. 

ROS: as above otherwise 10point ROS negative
 
Past Medical History:
Hypertension, Insomnia 
 
Social History:
___
Family History:
One of 17 children. Many in his family with hypertension. He 
believes that his aunt had a brain tumor but denies any other 
cancers int the family.
 
Physical Exam:
-Vitals: reviewed 
-General: NAD, laying comfortably in bed 
-HEENT: atraumatic, normocephalic, moist mucus membranes, PERRL, 
EOMi
-Cardiovascular: RRR, no murmur 
-Pulmonary: clear b/l, no wheeze 
-GI: Soft, nontender, nondistended, bowel sounds present
-GU: no foley, no CVA/suprapubic tenderness 
-MSK: No pedal edema, no joint swelling 
-Skin: No rashes, ulcerations, or jaundice
-Neuro: no focal neurological deficits, CN ___ grossly intact 
-Psychiatric: appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
___ 08:36PM BLOOD WBC-9.4 RBC-3.74* Hgb-5.6* Hct-22.6* 
MCV-60* MCH-15.0* MCHC-24.8* RDW-25.9* RDWSD-54.1* Plt ___
___ 08:36PM BLOOD Neuts-68.5 ___ Monos-9.8 Eos-1.0 
Baso-0.4 NRBC-0.2* Im ___ AbsNeut-6.43* AbsLymp-1.88 
AbsMono-0.92* AbsEos-0.09 AbsBaso-0.04
___ 08:36PM BLOOD ___ PTT-25.7 ___
___ 08:36PM BLOOD Ret Man-3.4* Abs Ret-0.13*
___ 08:36PM BLOOD Glucose-89 UreaN-12 Creat-0.9 Na-140 
K-4.2 Cl-100 HCO3-22 AnGap-18
___ 08:36PM BLOOD ALT-10 AST-33 LD(LDH)-314* AlkPhos-66 
TotBili-0.4 DirBili-<0.2
___ 08:36PM BLOOD Albumin-4.2 Calcium-9.4 Phos-3.6 Mg-2.2 
Iron-17*
___ 08:36PM BLOOD calTIBC-404 Hapto-299* Ferritn-12* 
TRF-311

DISCHARGE LABS
___ 06:49AM BLOOD WBC-7.1 RBC-4.29* Hgb-7.5* Hct-28.1* 
MCV-65.5* MCH-17.5* MCHC-26.7* RDW-UNABLE TO  RDWSD-UNABLE TO  
Plt ___
___ 06:49AM BLOOD Glucose-92 UreaN-6 Creat-1.0 Na-144 K-4.8 
Cl-105 HCO3-26 AnGap-13
___ 07:02AM BLOOD CEA-18.8*

IMAGING
-CT torso ___: Large rectal mass with extensive 
abdominopelvic nodal metastases and two
metastatic pulmonary nodules.  The primary mass extends at least 
up to, probably through, the mesorectal fascia with concern for 
invasion of the right peripheral zone of the prostate.

-MRI pelvis w/ contrast ___: pending

PROCEDURES:
-EGD ___: Grade B Esophagitis w/ antral ulcers likely due to 
NSAID use. 
-Flexible sigmoidoscopy ___: large rectal mass concerning 
for malignancy
 
Brief Hospital Course:
___ h/o HTN presents with rectal bleeding w/ symptomatic anemia 
found to have rectal mass. 

1. Bright red blood per rectum, acute blood loss anemia with 
iron deficiency, rectal mass
-s/p flex sigmoidoscopy ___ with discovery of large rectal mass 
concerning for malignancy with pending biopsy pending. CT torso 
with abdomino-pelvic nodal disease and pulmonary mets. CT 
surgery will follow up with patient on ___ to determine 
plan.  Anticipate need for oncology consult.  s/p 2Units PRBC 
___ w/ improvement of symptoms (fatigue, lightheadedness). 
Patient became more tachypnea on ___ likely in setting of 
anemia and will transfused an additional unit.  He should avoid 
NSAIDs and aspirin.  Started ferrous sulfate.  Recommend 
repeating CBC within 1 week and if he is anemic with hemoglobin 
<7 or symptomatic PCP to arrange outpatient blood transfusion.  

2. Grade B Esophagitis
-s/p EGD w/ antral ulcers likely due to NSAID use. Continue PPI. 
 

3. Tachycardia
-Most likely in setting of anemia.  He has no other 
signs/symptoms of infection.  Although he is at risk for DVT/PE
this seems less likely based on exam and vitals.  Heart rates 
improved with administration of an additional unit
of blood. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50-150 mg PO QHS:PRN insomnia 
2. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
daily Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  TraZODone 50-150 mg PO QHS:PRN insomnia  
7.Outpatient Lab Work
CBC ___, ICD 10 D50.0 (acute blood loss anemia)
PCP ___ to follow up results 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal mass
Blood per rectum
Antral ulcers, esophagitis 
Symptomatic anemia, acute blood loss anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted with rectal bleeding found to have low blood 
counts (anemia) and were given blood transfusions with 
improvement of your symptoms.  

You had a procedure called a sigmoidoscopy that looked into your 
rectum with discovery of a rectal mass; a biopsy was taken and 
is pending.  You also had a procedure called an endoscopy that 
looked into your stomach that showed irritation; please stop 
taking ibuprofen.  
 
Followup Instructions:
___